US08426447B2
A vial was charged with (4R)-2′-bromo-7′-(2,2-dimethylpropoxy)spiro[1,3-oxazole-4,9′-xanthen]-2-amine (80.0 mg, 192 μmol), DavePhos (9.05 mg, 23.0 μmol), tris(dibenzylideneacetone)dipalladium(0) (8.78 mg, 9.59 μmol), lithium bis(trimethylsilyl)amide (767 μl of a 1.0 M solution in THF, 767 μmol), and morpholine (50.1 μl, 575 μmol). The vial was sealed and heated in a 65° C. oil bath for 15 h. The reaction mixture was diluted with a saturated aqueous ammonium chloride solution (10 mL) and extracted with DCM (3×10 mL). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The residue was purified by chromatography on a 12-g Redi-Sep column, eluting with 0-8% MeOH/DCM. The first fraction containing product was mixed and was discarded. The remaining fractions were combined and evaporated to yield (4S)-2′-(2,2-dimethylpropoxy)-7′-(4-morpholinyl)spiro[1,3-oxazole-4,9′-xanthen]-2-amine as a pale yellow solid. MS m/z=424.2 [M+H]+. Calc'd for C24H30N3O4: 424.2.

reactant | (4R)-2′-bromo-7′-(2,2-dimethylpropoxy)spiro[1,3-oxazole-4,9′-xanthen]-2-amine | 192 μmol, 80.0 mg | BrC1=CC=2[C@@]3(C4=CC(=CC=C4OC2C=C1)OCC(C)(C)C)N=C(OC3)N | C20H21BrN2O3
reactant | DavePhos | 23.0 μmol, 9.05 mg | CN(C)C1=CC=CC=C1C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C26H36NP
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | morpholine | 575 μmol, 50.1 μl | N1CCOCC1 | C4H9NO
solvent | THF | C1CCOC1 | C4H8O
solvent | ammonium chloride | 10 mL | [Cl-].[NH4+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 9.59 μmol, 8.78 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (4S)-2′-(2,2-dimethylpropoxy)-7′-(4-morpholinyl)spiro[1,3-oxazole-4,9′-xanthen]-2-amine | CC(COC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)N1CCOCC1)N=C(OC3)N)(C)C | C24H29N3O4
